.SUBCKT c1 C vdd1 gnd
M0 B A gnd gnd nch L=65e-9 W=2e-6
M1 B A vdd1 vdd1 pch L=65e-9 W=2e-6
D0 A vdd1 dio 100e-6 80e-6
D1 gnd A dio 100e-6 120e-6
R0 A C 70
D2 C vdd1 dio 100e-6 120e-6
D3 gnd C dio 100e-6 120e-6
.ENDS
*******************************************
.SUBCKT c2 C vdd1 gnd
M0 B A gnd gnd nch L=65e-9 W=2e-6
M1 B A vdd1 vdd1 pch L=65e-9 W=220e-6
D0 A vdd1 dio 100e-6 120e-6
D1 gnd A dio 100e-6 120e-6
R0 A C 70
D2 C vdd1 dio 100e-6 120e-6
D3 gnd C dio 100e-6 120e-6
.ENDS
*******************************************
.SUBCKT c3 C vdd1 gnd
M0 B A gnd gnd nch L=65e-9 W=2e-6
M1 B A vdd1 vdd1 pch L=65e-9 W=2e-6
M2 A gnd gnd gnd nch L=65e-9 W=220e-6
R0 A C 70
D2 C vdd1 dio 100e-6 120e-6
D3 gnd C dio 100e-6 120e-6
.ENDS
*******************************************
.SUBCKT c4 C vdd1 gnd
M0 B A gnd gnd nch L=65e-9 W=2e-6
M1 B A vdd1 vdd1 pch L=65e-9 W=2e-6
R0 A C 60
D0 C vdd1 dio 100e-6 120e-6
D1 gnd C dio 100e-6 120e-6
.ENDS
*******************************************
.SUBCKT TOP C1 C2 C3 C4 vdd1 gnd
X1 C1 vdd1 gnd c1
X2 C2 vdd1 gnd c2
X3 C3 vdd1 gnd c3
X4 C4 vdd1 gnd c4
.ENDS
*******************************************
 
